US07199139B2
(S)-3-[4-[2-[[1-(4-Biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionic acid
The target compound (568 mg) was obtained as colorless crystals by carrying out the reaction and the post-treatment according to Reference example 7 using 2-trimethylsilylethyl (S)-3-[4-[2-[[1-(4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionate (938 mg) obtained from Reference example 14 and a 1M solution of tetrabutylammonium fluoride in tetrahedrofuran (3.8 ml).

reactant | 2-trimethylsilylethyl (S)-3-[4-[2-[[1-(4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionate | 938 mg | C1(=CC=C(C=C1)C(C)=NOCCOC1=CC=C(C=C1)C[C@@H](C(=O)OCC[Si](C)(C)C)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | C36H40FNO5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (S)-3-[4-[2-[[1-(4-Biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionic acid | C1(=CC=C(C=C1)C(C)=NOCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | C31H28FNO5
